US04786646
A solution of 35.2 g of N-[1,1-dimethyl-4-(3-pyridyl)butyl]-2-nitrobenzeneacetamide in 250 mL of acetic acid was hydrogenated over 3.5 g of 10% Pd/C at atmospheric pressure and ambient temperature. The reaction was exothermic and stopped abruptly after the uptake of the theoretical amount of hydrogen (7.5 L). The catalyst was removed by filtration and the filtrate was heated at reflux for 90 minutes. After the solution was cooled, 10 mL of conc. HCl was added and the solvent was removed under reduced pressure. The residue was taken up in 1 L of water and extracted with ethyl acetate (4×200 mL) to remove the byproduct, oxindole. The aqueous layer was basified with 10N NaOH and extracted with dichloromethane to give, after evaporation of the dried (K2CO3) extracts 15 g of product. The material was distilled on a Kugelrohr apparatus (95° C.; 0.1 mm) to yield 14.3 g of alpha,alpha-dimethyl-3-pyridinebutanamine.

reactant | N-[1,1-dimethyl-4-(3-pyridyl)butyl]-2-nitrobenzeneacetamide | 35.2 g | CC(CCCC=1C=NC=CC1)(C)NC(CC1=C(C=CC=C1)[N+](=O)[O-])=O | C19H23N3O3
reactant | hydrogen | 7.5 L | [H][H] | H2
solvent | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 3.5 g | [Pd] | Pd
product | alpha,alpha-dimethyl-3-pyridinebutanamine | 14.3 g | CC(CCCC=1C=NC=CC1)(N)C | C11H18N2
